US07534797B2
2-Phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-quinoline
7-Chloro-2-phenyl-4-trifluoromethyl-quinoline (1.0 g, 0.0033 mole), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (0.96 g, 0.0038 mole), potassium acetate (0.78 g, 0.0081 mole), palladium acetate (0.022 g, 0.0001 mole), and 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride (0.083 g, 0.0002 mol) were combined in THF (50 mL). The reaction was stirred and purged with argon for 5 minutes. The reaction was then stirred at reflux under an atmosphere of argon overnight. The reaction was allowed to cool, and was then suction filtered through a pad of silica gel. The filtrate was concentrated in vacuo and taken up in hexanes. A flocculent dark precipitate formed, and was filtered off. The filtrate was concentrated in vacou to afford a brown oil. The oil was chromatographed on Silica gel with Hexanes, THF (60:1), then flushed with THF to afford the title compound as a tan oil; 1H NMR (DMSO-d6, 400 MHz) δ 1.38 (s, 12H), 7.58-7.64 (m, 3H), 7.97-8.00 (dd, 1 H, J=2.1 & 8.5 Hz), 8.10-8.13 (dq, 1H, J=2.1 & J=8.5 Hz), 8.38-8.40 (dd, 2H, J=2.1 & 8.1 Hz), 8.52-8.54 (d, 1H, J=7.0 Hz); MS(ES+): 400.0 (100) [MH+].

reactant | 7-Chloro-2-phenyl-4-trifluoromethyl-quinoline | 0.0033 mole, 1.0 g | ClC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)C(F)(F)F | C16H9ClF3N
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.0038 mole, 0.96 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.0081 mole, 0.78 g | C(C)(=O)[O-].[K+]
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride | 0.0002 mol, 0.083 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[ClH] | C27H37ClN2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.0001 mole, 0.022 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-quinoline | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C22H21BF3NO2
